US08076486B2
2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-N,N-dimethyl-acetamide
To a solution of {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid (75 mg, 0.16 mmol, 1 eq) in DMF CDI (35 mg, 0.21 mmol, 1.3 eq) was added. The reaction mixture was stirred at RT under argon for 3 hrs. Then diisopropanlethylamine (352 mg, 0.41 mmol, 2.5 eq), and dimethylamine hydrichloride (40 mg, 0.41 mmol, 2.5 eq) was added and the mixture was stirred for another 2 hrs. It was then directly purified by reverse phase preparative HPLC to give the desired product (35 mg). LC/MS (Method A) [4.87 min; 483 (M+1)]

reactant | {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid | 0.16 mmol, 75 mg, 1 eq | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NCC(=O)O | C15H11FIN5O3
reactant | DMF CDI | 0.21 mmol, 35 mg, 1.3 eq | CN(C)C=O.C1=CN(C=N1)C(=O)N2C=CN=C2
reactant | dimethylamine | 0.41 mmol, 40 mg, 2.5 eq | CNC | C2H7N
product | 2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-N,N-dimethyl-acetamide | 35 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NCC(=O)N(C)C | C17H16FIN6O2
